US07943669B2
Step B: {4-[3-(4-Chloro-benzyloxy)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid
{4-[3-(4-Chloro-benzyloxy)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester (140 mg; 0.28 mmol) was dissolved in ethanol (15 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 1 h, acidified with 1 N aqueous hydrochloric acid, and extracted with ethyl acetate. The organic phase was dried and evaporated to dryness. Yield: 180 mg. HPLC-MS: m/z: 538.0 (M+); Rt: 1.84 min. δH (400 MHz; CDCl3) 2.27 (s, 3H), 3.15-3.30 (m, 2H), 3.45 (d, 2H), 3.99-4.06 (m, 2H), 4.13-4.22 (m, 4H), 4.73 (s, 2H), 4.96 (s, 2H), 6.57-6.60 (m, 1H), 6.74 (d, 1H), 6.76-6.81 (m, 2H), 7.25-7.31 (m, 4H), 7.32-7.36 (m, 2H).

reactant | {4-[3-(4-Chloro-benzyloxy)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | 0.28 mmol, 140 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CCN1CCOCC1)OCC1=CC=C(C=C1)Cl)C)=O | C31H32ClNO5S
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | {4-[3-(4-Chloro-benzyloxy)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid | ClC1=CC=C(COC=2C=C(C=C(C2)C#CCN2CCOCC2)SC2=CC(=C(OCC(=O)O)C=C2)C)C=C1 | C29H28ClNO5S
